US06090852
(b) N-Hydroxy 2-({[2-(biphen4-yl)ethyl]amino}sulfonyl)acetamide
In a manner similar to Example 1 (b), methyl 2-({[2-(biphen4-yl)ethyl]amino}sulfonyl)acetate was reacted with hydroxylamine to give the title compound as a colourless solid.

reactant | methyl 2-({[2-(biphen4-yl)ethyl]amino}sulfonyl)acetate | C1(=CC=C(C=C1)C1=CC=CC=C1)CCNS(=O)(=O)CC(=O)OC | C17H19NO4S
reactant | hydroxylamine | NO | H3NO
product | N-Hydroxy 2-({[2-(biphen4-yl)ethyl]amino}sulfonyl)acetamide | ONC(CS(=O)(=O)NCCC1=CC=C(C=C1)C1=CC=CC=C1)=O | C16H18N2O4S
